US06747023B1
2-(N-Methylcarbamoyl)-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(6-trimethylsilylethynylbenzo[b]thien-2-yl)sulfonyl]piperazine
In N,N-dimethylformamide (5 ml) was dissolved 3-(N-methylcarbamoyl)-1-[(6-trimethylsilylethynylbenzo[b]thien-2-yl)sulfonyl]piperazine (218 mg), followed by the addition of lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (188 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (240 mg) and 1-hyroxybenzotriazole (68 mg). The resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was diluted with methylene chloride, washed with water (twice) and then with a saturated aqueous solution of sodium bicarbonate. After drying over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (methanol:methylene chloride=3:97→5:95→7:93), whereby the title compound (90 mg) was obtained. MS (FAB) m/z: 616 (M+H)+.

reactant | 3-(N-methylcarbamoyl)-1-[(6-trimethylsilylethynylbenzo[b]thien-2-yl)sulfonyl]piperazine | 218 mg | CNC(=O)C1CN(CCN1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)C#C[Si](C)(C)C | C19H25N3O3S2Si
reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 188 mg | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 240 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hyroxybenzotriazole | 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(N-Methylcarbamoyl)-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(6-trimethylsilylethynylbenzo[b]thien-2-yl)sulfonyl]piperazine | CNC(=O)C1N(CCN(C1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)C#C[Si](C)(C)C)C(=O)C=2SC=1CNC(CC1N2)C | C27H33N5O4S3Si
